US04929613
3-(4'-Bromo-2',5'-difluorophenyl)-2-cyclopentenone.
A solution of 27.2 g (0.1 mole) of 1,4-dibromo-2,5-difluorobenzene in 200 ml of ether was blanketed with argon and cooled to -78° C. To this mixture was added 42 ml of n-butyl lithium (2.4 M; 0.10 mole) dropwise via an addition funnel. The solution was stirred at -78° C. for 15 minutes, then allowed to warm to -45° C. To the anion was added 13 ml of 3-ethoxy-2-cyclopentenone (0.10 mole); the solution was kept at -45° for 30 minutes and was then warmed slowly to room temperature. The mixture was poured into 250 ml of 1 N hydrochloric acid, stirred for 30 minutes, and extracted with ethyl acetate; the organic phases were combined, washed with water, dried over magnesium sulfate, and concentrated. The crude product was purified via silica gel chromatography using an 80:20 chloroform ethyl acetate mixture to give 14.2 g of the desired product; mp 129°-131° C.

reactant | 1,4-dibromo-2,5-difluorobenzene | 0.1 mole, 27.2 g | BrC1=C(C=C(C(=C1)F)Br)F | C6H2Br2F2
reactant | n-butyl lithium | 0.10 mole, 2.4 M, 42 ml | C(CCC)[Li]
reactant | 3-ethoxy-2-cyclopentenone | 0.10 mole, 13 ml | C(C)OC1=CC(CC1)=O | C7H10O2
reactant | hydrochloric acid | 1 N, 250 ml | Cl | ClH
solvent | ether | 200 ml | CCOCC | C4H10O
product | 3-(4'-Bromo-2',5'-difluorophenyl)-2-cyclopentenone | 14.2 g | BrC1=CC(=C(C=C1F)C1=CC(CC1)=O)F | C11H7BrF2O
